US05972965
A solution of 1-amino-2,3-dihydro-4-methoxy-1H-indene (0.30 g), 4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butan-1-one (0.56 g) and p-toluenesulfonic acid (catalytic amount) in toluene (50 ml) was refluxed for 2 days with Dean-stark equipment. The solvent was evaporated in vacuo and the residue was dissolved in methanol (10 ml). To the methanol solution was added NaBH4 (0.20 g) at 0° C. After being stirred for 1 hour at the same temperature, the solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate and sat. NaHCO3. The organic layer was washed with brine. The dried solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give 1-[[4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butyl]amino]-2,3-dihydro-4-methoxy-1H-indene (0.27 g). MS (m/z): 455 (M+ +1) NMR (CDCl3, δ): 1.60-3.20 (10H, m), 3.76 (2.5H, s), 3.84 (3.5H, s), 4.02-4.52 (2H, m), 7.59-7.69 (4H, m), 6.69-7.39 (9H, m)

reactant | 1-amino-2,3-dihydro-4-methoxy-1H-indene | 0.30 g | NC1CCC2=C(C=CC=C12)OC | C10H13NO
reactant | 4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butan-1-one | 0.56 g | OCCCC(=O)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C19H17NO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[[4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butyl]amino]-2,3-dihydro-4-methoxy-1H-indene | 0.27 g | OCCCC(C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)NC1CCC2=C(C=CC=C12)OC | C29H30N2O3
